US08357711B2
6-Chloro-N-[4-(trifluoromethyl)benzyl]nicotinamide
To a mixture of 6-chloronicotinic acid (2.0 g, 13 mmol) and HBTU (4.8 g, 13 mmol) in DMF (20 mL, 200 mmol) at 0° C. were added N,N-diisopropylethylamine (6.6 mL, 38 mmol) and 4-(trifluoromethyl)benzylamine (2.2 mL, 15 mmol). The reaction mixture was slowly warmed to ambient temperature. The reaction mixture was quenched with an equal volume of saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×). The combined organic layers were washed successively with water, aqueous lithium chloride, and brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on the Isco (120 g cartridge, chloroform to 12% MeOH in chloroform). The product was not thoroughly dried proceeding to the next reaction. Assumed 100% conversion.

reactant | 6-chloronicotinic acid | 13 mmol, 2.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | HBTU | 13 mmol, 4.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 200 mmol, 20 mL | CN(C)C=O | C3H7NO
reactant | N,N-diisopropylethylamine | 38 mmol, 6.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(trifluoromethyl)benzylamine | 15 mmol, 2.2 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 6-Chloro-N-[4-(trifluoromethyl)benzyl]nicotinamide | ClC1=NC=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=C1 | C14H10ClF3N2O
